US05338857
(3) 3-Phenylisoxazole-5-carboxylic acid chloride
Added to 500 g (4.2 mol) of thionyl chloride were 110 g (0.58 mol) of 3-phenylisoxazole-5-carboxylic acid prepared above in the procedure (2), followed by the further addition of 2 ml of dimethylformamide. The resulting mixture was heated under reflux for 3 hours. After completion of the reaction, thionyl chloride was distilled off under reduced pressure, followed by the addition of 500 ml of benzene. When the mixture thus obtained was distilled under reduced pressure, the title compound, i.e., 3-phenylisoxazole-5-carboxylic acid chloride was obtained as a solid. It was provided for the next step without purification.

reactant | thionyl chloride | 4.2 mol, 500 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-phenylisoxazole-5-carboxylic acid | 0.58 mol, 110 g | C1(=CC=CC=C1)C1=NOC(=C1)C(=O)O | C10H7NO3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-phenylisoxazole-5-carboxylic acid chloride | C1(=CC=CC=C1)C1=NOC(=C1)C(=O)Cl | C10H6ClNO2
